US08138197B2
Methyl 3-ethoxy-5-trifluoromethanesulfonyloxybenzoate
With cooling with ice, potassium carbonate (152 mg, 1.10 mmol) and iodoethane (0.088 mL, 1.10 mmol) were added to a DMF solution (2.0 mL) of methyl 3-hydroxy-5-trifluoromethane-sulfonyloxybenzoate (300 mg, 1.00 mmol), and stirred at room temperature for 14 hours. The reaction mixture was diluted with diethyl ether (30 mL), then washed with water and aqueous saturated sodium chloride solution, dried with sodium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography to obtain the title compound as a colorless oil.

reactant | potassium carbonate | 1.10 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.10 mmol, 0.088 mL | ICC | C2H5I
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
reactant | methyl 3-hydroxy-5-trifluoromethane-sulfonyloxybenzoate | 1.00 mmol, 300 mg | OC=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F | C9H7F3O6S
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | Methyl 3-ethoxy-5-trifluoromethanesulfonyloxybenzoate | C(C)OC=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F | C11H11F3O6S
